US04341784
A mixture containing 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (2.7 g), triethylamine (1.01 g), 3-acetylaminopyrrolidine (2.56 g), and acetonitrile (100 ml) was heated under reflux for 2 hours. The mixture was concentrated to dryness under reduced pressure. The residue was mixed with water, neutralized with acetic acid, and cooled. The precipitate was collected, washed successively with water and ethanol, and dried to give 3.2 g of 7-(3-acetylamino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, m.p. 283°-284° C., on recrystallization from dimethylformamide-ethanol.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 2.7 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | 3-acetylaminopyrrolidine | 2.56 g | C(C)(=O)NC1CNCC1 | C6H12N2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 7-(3-acetylamino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 3.2 g | C(C)(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C17H19FN4O4
